US07714140B2
1.9 g (50.5 mmol) of sodium borohydride was suspended in 40 ml of water. To the resulting suspension was dropwise added, at 10 to 15° C., a solution of the 3,4-dichloroisothiazole-5-carbonyl chloride dissolved in THF (4 ml). Stirring was conducted at 15° C. for 30 minutes. Then, an aqueous citric acid solution was added to make the mixture weakly acidic and extraction with ethyl acetate was conducted. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The resulting crystals were washed with hexane to obtain 3.0 g (yield: 81%) of (3,4-dichloroisothiazol-5-yl)methanol as colorless crystals (melting point: 94 to 95° C.).

reactant | sodium borohydride | 50.5 mmol, 1.9 g | [BH4-].[Na+]
reactant | 3,4-dichloroisothiazole-5-carbonyl chloride | ClC1=NSC(=C1Cl)C(=O)Cl | C4Cl3NOS
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 40 ml | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (3,4-dichloroisothiazol-5-yl)methanol | 3.0 g, yield: 81% | ClC1=NSC(=C1Cl)CO | C4H3Cl2NOS
